US07414061B2
b) 5-Methyl-3-phenyl-4-(1-phenyl-1H-imidazol-4-yl)-isoxazole
To a mixture of copper(I) trifluoromethanesulfonate benzene complex (12.3 mg, 0.22 mmol), 1,10-phenanthroline (79.5 mg, 0.44 mmol), dibenzylideneacetone (5.2 mg, 0.22 mmol) and cesium carbonate (144 mg, 0.44 mmol) was added a suspension of 4-(1H-imidazol-4-yl)-5-methyl-3-phenyl-isoxazole (149 mg, 0.6 mmol) in toluene (2 mL) followed by iodobenzene (90 mg, 0.44 mmol) and the resulting mixture heated at 120° C. for 2 days. After cooling to room temperature the resulting mixture was poured into aqueous ammonium chloride (saturated) and extracted with ethyl acetate. The organic extracts were then dried over sodium sulphate and evaporated. Purification by chromatography (SiO2, heptane:ethyl acetate=1:1) afforded the title compound (18 mg, 13%) which was obtained as a light brown gum. MS: m/e=302.1 [M+H]+.

reactant | 1,10-phenanthroline | 0.44 mmol, 79.5 mg | N1=CC=CC2=CC=C3C=CC=NC3=C12 | C12H8N2
reactant | dibenzylideneacetone | 0.22 mmol, 5.2 mg | C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1 | C17H14O
reactant | cesium carbonate | 0.44 mmol, 144 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4-(1H-imidazol-4-yl)-5-methyl-3-phenyl-isoxazole | 0.6 mmol, 149 mg | N1C=NC(=C1)C=1C(=NOC1C)C1=CC=CC=C1 | C13H11N3O
reactant | iodobenzene | 0.44 mmol, 90 mg | IC1=CC=CC=C1 | C6H5I
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
product | 5-Methyl-3-phenyl-4-(1-phenyl-1H-imidazol-4-yl)-isoxazole | 18 mg, 13% | CC1=C(C(=NO1)C1=CC=CC=C1)C=1N=CN(C1)C1=CC=CC=C1 | C19H15N3O
